US09371289B2
Synthesis of methyl 4-[(1S)-1-[[(3R)-1,2,3,4-tetrahydroisoquinoline-3-carbonyl]amino]ethyl]benzoate hydrochloride
Dissolve tert-butyl (3R)-3-[[(1S)-1-(4-methoxycarbonylphenyl)ethyl]carbamoyl]-3,4-dihydro-1H-isoquinoline-2-carboxylate (5.5 g, 12.5 mmol) in a 4 M solution of hydrogen chloride in 1,4-dioxane (30 mL, 120 mmol). Stir the mixture overnight at room temperature, and then concentrate the mixture under reduced pressure to furnish the title compound as a white solid (4.70 g, 100% yield). Mass spectrum (m/z): 339 ([M+H]+), 677 ([2M+H]+), 699 ([2M+Na]+).

reactant | tert-butyl (3R)-3-[[(1S)-1-(4-methoxycarbonylphenyl)ethyl]carbamoyl]-3,4-dihydro-1H-isoquinoline-2-carboxylate | 12.5 mmol, 5.5 g | COC(=O)C1=CC=C(C=C1)[C@H](C)NC(=O)[C@@H]1N(CC2=CC=CC=C2C1)C(=O)OC(C)(C)C | C25H30N2O5
reactant | 1,4-dioxane | 120 mmol, 30 mL | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
product | methyl 4-[(1S)-1-[[(3R)-1,2,3,4-tetrahydroisoquinoline-3-carbonyl]amino]ethyl]benzoate hydrochloride | 4.70 g, 100% yield | Cl.C1N[C@H](CC2=CC=CC=C12)C(=O)N[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | InChI=1S/C20H22N2O3.ClH/c1-13(14-7-9-15(10-8-14)20(24)25-2)22-19(23)18-11-16-5-3-4-6-17(16)12-21-18;/h3-10,13,18,21H,11-12H2,1-2H3,(H,22,23);1H/t13-,18+;/m0./s1
